US04885383
Continuous Preparation of 2-Ethylhexanoic Acid Methyl Ester
173.0 g of a feed mixture consisting of 598.4 g of 2-ethyl-hexanoic acid, 397.8 g of methanol, and 3.8 g of concentrated sulfuric acid is placed in a 1-liter flask equipped with a bottom valve, a stirrer, an internal thermometer, and a Claisen bridge including a receiver. The flask contents are stirred for 30 minutes at 120° C. and the distilled amounts are collected in the receiver. While a temperature of 120° C. is maintained, the feed mixture is added continuously to the flask in an amount sufficient to maintain a constant reactor volume of 300 to 320 ml, allowing for the distilled amounts and amounts drawn off through the bottom valve. After the system has been adjusted to equilibrium, the following balance is obtained with a test period of 6 hours:

reactant | 2-ethyl-hexanoic acid | 598.4 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | sulfuric acid | 3.8 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 397.8 g | CO | CH4O
product | 2-Ethylhexanoic Acid Methyl Ester | COC(C(CCCC)CC)=O | C9H18O2
